US05117057
To a stirred mixture of N'-t-butyl-N'-benzoylhydrazine (1.0 g) in 15 ml toluene and aqueous sodium hydroxide (0.5 g of 50% NaOH) was added 3-toluoylchloride (0.9 g). After stirring for 2 hours, the product was isolated by filtration to give N'-t-butyl-N-(3-toluoyl)-N'-benzoylhydrazine in good yield. m.p. 111°-114° C.

reactant | N'-t-butyl-N'-benzoylhydrazine | 1.0 g | C(C)(C)(C)N(N)C(C1=CC=CC=C1)=O | C11H16N2O
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | 3-toluoylchloride | 0.9 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-(3-toluoyl)-N'-benzoylhydrazine | C(C)(C)(C)N(NC(=O)C=1C=C(C=CC1)C)C(C1=CC=CC=C1)=O | C19H22N2O2
